** sch_path: /home/designer/shared/Delta-sigma-adc/cace/templates/OTA_tb_noise.sch
**.subckt OTA_tb_noise
C1 v_out V_SS 2p m=1
Vin V_cm net1 dc 0 ac 1
VDD V_DD GND 1.2
V_SS V_SS GND 0
Vin1 V_BN GND 0.3
Vin2 V_BP GND 0.2
Vin3 V_cm V_SS 0.6
x1 net1 V_cm V_BN V_BP v_out V_DD V_SS Pseudo_compensated_self_cascode_OTA
**** begin user architecture code


.temp 27
.control
option sparse
set filetype=ascii
save all

*op
*write OTA_tb_noise.raw
*set appendwrite

ac dec 101 1k 1G
*write OTA_tb_noise.raw
plot 20*log10(v_out)

noise v(v_out) Vin lin 1000 1MEG 1000MEG 1
print inoise_total
print onoise_total

setplot noise1
plot inoise_spectrum linplot
plot onoise_spectrum linplot

setplot noise2
write OTA_tb_noise.raw

.endc


 .lib cornerMOSlv.lib mos_tt

 .include /home/designer/shared/Delta-sigma-adc/cace/templates/OTA_tb_noise.save

**** end user architecture code
**.ends

* expanding   symbol:  /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym # of pins=7
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sch
.subckt Pseudo_compensated_self_cascode_OTA VN VP V_BN V_BP V_OUT VDD VSS
*.ipin VN
*.ipin VP
*.ipin V_BN
*.ipin V_BP
*.opin V_OUT
*.iopin VDD
*.iopin VSS
XM11 net1 VN net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM12 V_GS VN net1 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM21 net4 VP net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM22 VB32 VP net4 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM52 net2 V_BN net3 V_BN sg13_lv_nmos w=40u l=0.5u ng=4 m=1
XM51 net3 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XM32 V_GS V_GS VS32 VB32 sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM31 VS32 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM42 VB32 V_GS VS42 V_GS sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM41 VS42 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM61 net5 VB32 VDD VDD sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM62 V_OUT VB32 net5 V_BP sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM72 V_OUT V_BN net6 V_BN sg13_lv_nmos w=40u l=0.5u ng=10 m=1
XM71 net6 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
C1 VS42 V_OUT 1.45p m=1
C2 net4 V_OUT 1.45p m=1
.ends

.GLOBAL GND
.end
