** sch_path: /home/designer/shared/Delta-sigma-adc/cace/templates/OTA_tb_tran.sch
**.subckt OTA_tb_tran
VDD V_DD GND CACE{vdd}
V_SS V_SS GND 0
VBN V_BN GND 0.3
VBP V_BP GND 0.2
vin vin GND PULSE(0.5 0.7 1u 1n 1n 10u 20u)
C2 v_out GND CACE{cload} m=1
x1 v_out vin V_BN V_BP v_out V_DD V_SS Pseudo_compensated_self_cascode_OTA
**** begin user architecture code

.lib cornerMOSlv.lib mos_CACE{corner}
.lib cornerMOShv.lib mos_CACE{corner}



.include CACE{DUT_path}
.temp CACE{temp}
.param mc_ok = CACE{sigma=1}
.option SEED=CACE[CACE{seed=12345} + CACE{iterations=0}]

.ic v(v_out)=0
.option method=gear

.control
set num_threads=1
tran 1n 20u uic
let vin_limit=0.56*CACE{vdd}
let vout_limit=vin_limit*0.999
meas tran tcross WHEN v(v_out)=vout_limit RISE = 1

meas tran tstart WHEN v(vin)=vin_limit RISE = 1
let tsettle=tcross-tstart

echo $&tsettle > CACE{simpath}/CACE{filename}_CACE{N}.data
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym # of pins=7
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sch
.subckt Pseudo_compensated_self_cascode_OTA VN VP V_BN V_BP V_OUT VDD VSS
*.ipin VN
*.ipin VP
*.ipin V_BN
*.ipin V_BP
*.opin V_OUT
*.iopin VDD
*.iopin VSS
XM11 net1 VN net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM12 V_GS VN net1 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM21 net4 VP net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM22 VB32 VP net4 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM52 net2 V_BN net3 V_BN sg13_lv_nmos w=40u l=0.5u ng=4 m=1
XM51 net3 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XM32 V_GS V_GS VS32 VB32 sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM31 VS32 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM42 VB32 V_GS VS42 V_GS sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM41 VS42 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM61 net5 VB32 VDD VDD sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM62 V_OUT VB32 net5 V_BP sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM72 V_OUT V_BN net6 V_BN sg13_lv_nmos w=40u l=0.5u ng=10 m=1
XM71 net6 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
C1 VS42 V_OUT 1.45p m=1
C2 net4 V_OUT 1.45p m=1
.ends

.GLOBAL GND
.end
