** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/1_bit_DAC.sch
.subckt 1_bit_DAC Vin Vref_pos Vref_neg VDD Vout VSS
*.PININFO Vin:I Vref_pos:I Vref_neg:I VDD:B VSS:B Vout:O
x2 net1 vref_pos Vout VSS Vin VDD T_gate
x3 Vin vref_neg Vout VSS net1 VDD T_gate
x1 vdd Vin net1 VSS inverter
.ends

* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym # of pins=6
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.PININFO Vout:B Vin:B !Control:B Control:B gnd:B vdd:B
M1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
M2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym # of pins=4
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sch
.subckt inverter vdd vi vo gnd
*.PININFO vi:B vo:B gnd:B vdd:B
M5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
M7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

