** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/buffer.sch
.subckt buffer vin vdd gnd vout
*.PININFO vin:I vdd:B gnd:B vout:O
x10 vdd gnd vin net1 inv_4
x8 vdd gnd net1 vout inv_4
.ends

* expanding   symbol:  inv_4.sym # of pins=4
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_4.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_4.sch
.subckt inv_4 VDD VSS A Y
*.PININFO Y:O A:I VDD:B VSS:B
MN0 Y A VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 m=1
MP0 Y A VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 m=1
.ends

